US05530138
N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-2-chloroaniline
To nitrobenzene (30.0 ml), 2-chloroaniline (600 mg, 4.70 mmol), 5-(2-chloroethyl)-1-azabicyclo[3.3.0]octane (hydrochloride, 1.98 g, 9.42 mmol) and anhydrous potassium carbonate (3.90 g, 28.2 mmol) were added to react same for 10 hours at 120° C. subsequent to addition of 10% aqueous sodium hydroxide solution, the reaction mixture was extracted by ethyl acetate, washed by sodium chloride solution, dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by column chromatography to afford the desired compound (499 mg, 40.1%), as a colorless liquid.

reactant | nitrobenzene | 30.0 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 2-chloroaniline | 4.70 mmol, 600 mg | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | 5-(2-chloroethyl)-1-azabicyclo[3.3.0]octane | 9.42 mmol, 1.98 g | ClCCC12CCCN2CCC1 | C9H16ClN
reactant | potassium carbonate | 28.2 mmol, 3.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
product | N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-2-chloroaniline | 499 mg, 40.1% | N12CCCC2(CCC1)CCNC1=C(C=CC=C1)Cl | C15H21ClN2
